US04780477
To a solution of 3.00 g of 5-methoxyisatin and 3.39 g of 2-diisopropylaminoethyl chloride hydrochloride in 50 ml of dry N,N-dimethylformamide was added 1.36 g of sodium hydride (60% dispersion in mineral oil) with stirring under ice-cooling. The mixture was stirred for 1 hour at room temperature and then heated at 80° C. for 13 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel flash column chromatography (eluent: chloroform) and recrystallized from hexane to obtain 3.33 g of 1-(2-diisopropylaminoethyl)-5-methoxyisatin having a melting point of 81°-82.5° C.

reactant | 5-methoxyisatin | 3.00 g | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | 2-diisopropylaminoethyl chloride hydrochloride | 3.39 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | sodium hydride | 1.36 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2-diisopropylaminoethyl)-5-methoxyisatin | 3.33 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC(=CC=C12)OC)C(C)C | C17H24N2O3
